US04301171
Ethyl (1.4-benzodioxan-2-yl)acetimidate HCl, (5.0 g, 19.4 mmol) and o-phenylenediamine (2.16 g, 200 mmol) in ethanol (50 ml) were heated to reflux for 16 hours. The solution was cooled made basic with ammonium hydroxide, and extracted with ethyl acetate. The dried ethyl acetate extract was evaporated to a white solid which was triturated with ether and filtered to a white solid. This solid was dissolved in methanol and acidified with methanolic hydrogen chloride. The precipitated HCl salt was filtered and washed with ether to afford 2.4 g of 2-(1,4-benzodioxan-2-ylmethyl)benzimidazole hydrochloride, m.p. 230°-232°.

reactant | Ethyl (1.4-benzodioxan-2-yl)acetimidate HCl | 19.4 mmol, 5.0 g | Cl.O1C(COC2=C1C=CC=C2)CC(OCC)=N
reactant | o-phenylenediamine | 200 mmol, 2.16 g | C1(=C(C=CC=C1)N)N | C6H8N2
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 2-(1,4-benzodioxan-2-ylmethyl)benzimidazole hydrochloride | 2.4 g | Cl.O1C(COC2=C1C=CC=C2)CC=2NC1=C(N2)C=CC=C1 | InChI=1S/C16H14N2O2.ClH/c1-2-6-13-12(5-1)17-16(18-13)9-11-10-19-14-7-3-4-8-15(14)20-11;/h1-8,11H,9-10H2,(H,17,18);1H
